US04841045
A solution of 142.23 g (1.02 mol) of N-[1-(E)-penten-1-yl]pyrrolidine and 100 mL (80.6 g, 1.52 mol) of acrylonitrile in 570 mL of 1,4-dioxane was heated at gentle reflux, under argon, for 16 hr. 50 mL of water was then added and the mixture was stirred at reflux for a further 8 hr. After concentration in vacuo, 200 g of ice, 400 mL of 3N hydrogen chloride solution, and 600 mL of methylene chloride were added, and the mixture was stirred for 15 min. The aqueous layer was separated and extracted with 3×300 mL of methylene chloride, and the combined organic layers were washed with 2×150 mL of saturated brine, dried (MgSO4), filtered and concentrated. The residue (140.2 g) was distilled to give 46.96 g (33.0%) of 4-formylheptanenitrile bp 103°-104° C. (1.33 mm Hg).

reactant | N-[1-(E)-penten-1-yl]pyrrolidine | 1.02 mol, 142.23 g | C(=C\CCC)/N1CCCC1 | C9H17N
reactant | acrylonitrile | 1.52 mol, 100 mL, 80.6 g | C(C=C)#N | C3H3N
reactant | water | 50 mL | O | H2O
solvent | 1,4-dioxane | 570 mL | O1CCOCC1 | C4H8O2
product | 4-formylheptanenitrile | 46.96 g, 33.0% | C(=O)C(CCC#N)CCC | C8H13NO
